US05969146
1.9. Ethyl [6-(phenylmethoxy)benzofuran-3-yl]carbamate
A reactor containing 38.6 g (0.11 mol) of 3-[(ethoxycarbonyl)amino]-6-(phenylmethoxy)benzofuran-2-carboxylic acid under nitrogen is immersed in an oil bath at 185-190° C. for 5 minutes. The residue is then taken up in ethyl acetate and the solution is then washed with an aqueous potassium hydrogencarbonate solution and then with a saturated aqueous sodium chloride solution. The organic phase is then dried over sodium sulphate, the solvent is evaporated and the residue is purified on a silica column with a mixture containing 20% of ethyl acetate in cyclohexane. After trituration in diisopropyl ether, 25 g of product are obtained.

reactant | 3-[(ethoxycarbonyl)amino]-6-(phenylmethoxy)benzofuran-2-carboxylic acid | 0.11 mol, 38.6 g | C(C)OC(=O)NC1=C(OC2=C1C=CC(=C2)OCC2=CC=CC=C2)C(=O)O | C19H17NO6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl [6-(phenylmethoxy)benzofuran-3-yl]carbamate | 25 g | C1(=CC=CC=C1)COC1=CC2=C(C(=CO2)NC(OCC)=O)C=C1 | C18H17NO4
